US04260772
6-(3-Nitrophenyl)-2H,4H-[1,2,3]triazolo[4,5-d][2]benzazepine
A mixture of 1.6 g (4.5 mmole) of the methanesulfonate salt of 6-phenyl-2H,4H-[1,2,3]triazolo[4,5-d][2]benzazepine, 8.6 g of potassium nitrate, and 20 ml of sulfuric acid was stirred at 0° C. for 3.5 hr. The mixture was poured over ice, basified with ammonium hydroxide and extracted with methylene chloride. The methylene chloride solution was dried with anhydrous sodium sulfate and concentrated at reduced pressure. The residue was triturated with ether to give tan crystals (mp 223°-225° C.). Recrystallization from methylene chloride gave cream colored prisms, mp 224°-225° C.

reactant | 6-phenyl-2H,4H-[1,2,3]triazolo[4,5-d][2]benzazepine | C1(=CC=CC=C1)C1=NCC=2C(C3=C1C=CC=C3)=NNN2 | C16H12N4
reactant | potassium nitrate | 8.6 g | [N+](=O)([O-])[O-].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 6-(3-Nitrophenyl)-2H,4H-[1,2,3]triazolo[4,5-d][2]benzazepine | [N+](=O)([O-])C=1C=C(C=CC1)C1=NCC=2C(C3=C1C=CC=C3)=NNN2 | C16H11N5O2
